US07482350B2
Step 1. Synthesis of 5-hydroxymethyl-6-methyl-pyrimidine-2,4-diol
To a flask containing 6-methyl-1H-pyrimidine-2,4-dione (10 g, 79.3 mmol) is added NaOH (1.25 N, 95 mL) and the solution is allowed to stir for 10 min at room temperature. Formaldehyde (37%, 19.60 mL) is added dropwise over 30 min. After 30 min, a thick white precipitate forms and the reaction is allowed to proceed for 150 min. The suspension is then filtered and the filter cake is transferred to an Erlenmeyer flask to which EtOH (absolute, 200 mL) is added. The resulting suspension of white solid is stirred for 30 min. The white solid is collected by filtration, washed with EtOH (50 mL), Et2O (100 mL) and vacuum dried to provide the title compound as a white solid. [MS mass expected (156.14); mass found (156.02)].

reactant | 6-methyl-1H-pyrimidine-2,4-dione | 79.3 mmol, 10 g | CC1=CC(NC(N1)=O)=O | C5H6N2O2
reactant | NaOH | 1.25 N, 95 mL | [OH-].[Na+]
reactant | Formaldehyde | 19.60 mL | C=O | CH2O
product | 5-hydroxymethyl-6-methyl-pyrimidine-2,4-diol | OCC=1C(=NC(=NC1C)O)O | C6H8N2O3
